US08497382B2
2-(1-tert-Butoxycarbonyl-1-methyl-ethylsulfanyl)-thiazole-4-carboxylic acid was dissolved in methylene chloride (1200 mL), 1-ethyl-3-(3-dimethylaminopropyl)carbodiimide hydrochloride (191.70 g), 4-dimethylaminopyridine (5.86 g) and methanol (19.47 mL) were added and the mixture was stirred at room temperature overnight. The mixture was washed with dilute hydrochloric acid (about 0.5 mol/L), saturated aqueous sodium hydrogen carbonate solution, and saturated aqueous sodium chloride solution (each 500 mL), and dried over anhydrous sodium sulfate. The solvent was evaporated and the residue was dissolved again in ethyl acetate (700 mL), washed successively with dilute hydrochloric acid (about 0.2 mol/L), saturated aqueous sodium hydrogen carbonate solution, and saturated aqueous sodium chloride solution (each 300 mL), and dried over anhydrous sodium sulfate. The solvent was evaporated and the obtained solid was washed with a mixed solvent (10:1, about 500 mL) of hexane and ethyl acetate, and the solid was collected by filtration. The solvent was evaporated from the filtrate and the residue was purified by silica gel column chromatography (using 500 g of Fuji Silysia BW-300, elution solvent: hexane/ethyl acetate=3/1). The obtained solid was washed with hexane and combined with the solid obtained earlier to give 2-(1-tert-butoxycarbonyl-1-methyl-ethylsulfanyl)-thiazole-4-carboxylic acid methyl ester (94.6 g).

reactant | 2-(1-tert-Butoxycarbonyl-1-methyl-ethylsulfanyl)-thiazole-4-carboxylic acid | C(C)(C)(C)OC(=O)C(C)(C)SC=1SC=C(N1)C(=O)O | C12H17NO4S2
reactant | 1-ethyl-3-(3-dimethylaminopropyl)carbodiimide hydrochloride | 191.70 g | Cl.C(C)N=C=NCCCN(C)C
reactant | methanol | 19.47 mL | CO | CH4O
solvent | methylene chloride | 1200 mL | C(Cl)Cl | CH2Cl2
catalyst | 4-dimethylaminopyridine | 5.86 g | CN(C1=CC=NC=C1)C | C7H10N2
product | 2-(1-tert-butoxycarbonyl-1-methyl-ethylsulfanyl)-thiazole-4-carboxylic acid methyl ester | 94.6 g | COC(=O)C=1N=C(SC1)SC(C)(C)C(=O)OC(C)(C)C | C13H19NO4S2
